US07589206B2
e) Ethyl 4-chloro-1-{[4-(methyloxy)phenyl]methyl}-1H-pyrrolo[3,2-c]pyridine-7-carboxylate
Ethyl 1-{[4-(methyloxy)phenyl]methyl}-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carboxylate (2.90 g) and phenyl dichlorophosphate (18 ml) were heated at 180° C. under argon for 30 minutes. The reaction mixture was allowed to cool, poured onto iced water, and neutralised to pH7 using solid sodium bicarbonate. To the reaction mixture was added ethyl acetate and the insoluble material was filtered off. The aqueous was separated and extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4), filtered and evaporated to afford the title compound as a clear oil (2.0 g).

reactant | Ethyl 1-{[4-(methyloxy)phenyl]methyl}-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carboxylate | 2.90 g | COC1=CC=C(C=C1)CN1C=CC=2C(NC=C(C21)C(=O)OCC)=O | C18H18N2O4
reactant | phenyl dichlorophosphate | 18 ml | P(=O)(OC1=CC=CC=C1)(Cl)Cl | C6H5Cl2O2P
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 4-chloro-1-{[4-(methyloxy)phenyl]methyl}-1H-pyrrolo[3,2-c]pyridine-7-carboxylate | 2.0 g | ClC1=NC=C(C2=C1C=CN2CC2=CC=C(C=C2)OC)C(=O)OCC | C18H17ClN2O3
